US05677316
(4) 3-Aminomethyl-3-hydroxymethylpyrrolidine
1-Benzyl-3-(benzylaminomethyl)-3-hydroxymethylpyrrolidine (2.0 g) was dissolved in ethanol (20 ml), and 10% palladium-carbon (1 g) was added. The mixture was hydrogenated under atmospheric pressure. After the completion of the reaction, the catalyst was removed, and the manure was concentrated to give the object compound as an oil.

reactant | 1-Benzyl-3-(benzylaminomethyl)-3-hydroxymethylpyrrolidine | 2.0 g | C(C1=CC=CC=C1)N1CC(CC1)(CO)CNCC1=CC=CC=C1 | C20H26N2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1 g | [C].[Pd]
product | 3-Aminomethyl-3-hydroxymethylpyrrolidine | NCC1(CNCC1)CO | C6H14N2O
